US09315489B2
N-(4-(Chlorodifluoromethoxy)phenyl)-3-(pyrimidin-5-yl)benzamide
A mixture of 3-pyrimidin-5-yl-benzoic acid (100 mg, 0.50 mmol) and SOCl2 (73 μL, 1.0 mmol) was heated under reflux for 4 h. The solvent was evaporated off under reduced pressure and the residue was dissolved in DCM (5 mL) and slowly added to a mixture of 4-(chlorodifluoromethoxy)aniline (106 mg, 0.55 mmol) and TEA (140 μL, 1.0 mmol) in DCM (5 mL). The mixture was stirred at RT overnight. The solvent was evaporated off under reduced pressure and the residue was suspended in EtOAc (10 mL), filtered through a 10 μm Isolute® fritted cartridge and the filtrate was evaporated to dryness under reduced pressure to give the crude product which was purified by preparative HPLC to afford the title compound. LC-MS (Condition 4) tR=1.15 min, m/z=375.8 [M+H]+; 1H-NMR (400 MHz, DMSO-d6) δ ppm 7.40 (d, J=9.05 Hz, 2H) 7.73 (t, J=7.82 Hz, 1H) 7.92 (m, 2H) 8.06 (t, J=6.97 Hz, 2H) 8.37 (t, J=1.96 Hz, 1H) 9.24-9.29 (m, 3H) 10.52 (s, 1H).

reactant | 3-pyrimidin-5-yl-benzoic acid | 0.50 mmol, 100 mg | N1=CN=CC(=C1)C=1C=C(C(=O)O)C=CC1 | C11H8N2O2
reactant | SOCl2 | 1.0 mmol, 73 μL | O=S(Cl)Cl | Cl2OS
reactant | 4-(chlorodifluoromethoxy)aniline | 0.55 mmol, 106 mg | ClC(OC1=CC=C(N)C=C1)(F)F | C7H6ClF2NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(Chlorodifluoromethoxy)phenyl)-3-(pyrimidin-5-yl)benzamide | ClC(OC1=CC=C(C=C1)NC(C1=CC(=CC=C1)C=1C=NC=NC1)=O)(F)F | C18H12ClF2N3O2
